US05556860
Synthesis of 3-[1-(3-methylsulfinylbenzyl)piperidin-4yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 480 mg (1 mmol) of 3-[1-(3-methylthiobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro -2(1H)-quinazolinone HCl salt in 10 mL of methylene chloride was added 190 mg (1.1 mmol) of m-chloroperbenzoic acid at temperature of 0° C. to 10° C. The mixture was stirred for 10 hours at ambient temperature, mixed with water, adjusted to pH 10 with a aqueous ammonia and then extracted with chloroform. The organic layer separated was washed with brine, dried on sodium sulfate and then concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 440 mg (0.96 mmol) of the title compound as an about 1:1 mixture of the diastereomers.

reactant | 3-[1-(3-methylthiobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro -2(1H)-quinazolinone HCl salt | 1 mmol, 480 mg | Cl.CSC=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1
reactant | m-chloroperbenzoic acid | 1.1 mmol, 190 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | ammonia | N | H3N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[1-(3-methylsulfinylbenzyl)piperidin-4yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.96 mmol, 440 mg | CS(=O)C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C27H29N3O2S
